US04581369
To a suspension of 2.9 g of sodium hydride (60% dispersion in mineral oil) in 50 ml of hexamethylphosphoric triamide is added 5.3 g of imidazole over a 30 minute period under heating at 40° C. After the addition is complete, the mixture is stirred at room temperature for an hour. To the reaction mixture is added 16.6 g of 3-fluoro-2',4',6'-trimethylbenzophenone and the mixture is stirred at 70° C. for 24 hours. The reaction solution is poured into ice-cold water and extracted with ethyl acetate. The ethyl acetate layer is washed with water, dried and concentrated. The residue is recrystallized from a mixture of toluene and isopropyl ether to give 16 g of 3-(1-imidazolyl)-2',4',6'-trimethylbenzophenone as white crystals, melting at 134°-136° C.

reactant | sodium hydride | 2.9 g | [H-].[Na+]
reactant | imidazole | 5.3 g | N1C=NC=C1 | C3H4N2
reactant | 3-fluoro-2',4',6'-trimethylbenzophenone | 16.6 g | FC=1C=C(C(=O)C2=C(C=C(C=C2C)C)C)C=CC1 | C16H15FO
solvent | hexamethylphosphoric triamide | 50 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 3-(1-imidazolyl)-2',4',6'-trimethylbenzophenone | 16 g | N1(C=NC=C1)C=1C=C(C(=O)C2=C(C=C(C=C2C)C)C)C=CC1 | C19H18N2O
